US07544661B2
N-dodecyl-2-carbobenzyloxyamino-succinamic acid (5).
N-Carbobenzyloxy-L-aspartic anhydride (1 mmol) was dissolved in 50 mL methylene chloride, followed by the addition of 1.05 eq of dodecylamine and 1.1 eq of triethylamine. The reaction was capped to prevent evaporation, and stirred for 12 hours. When no trace of starting material could be detected by thin layer chromatography (TLC) (CH2Cl2, 5% MeOH), the reaction was quenched with 20 mL 1N hydrochloric acid followed by extraction with chloroform (5×). The organic layer was dried over magnesium sulfate, and 7 was obtained as a white solid (yield 97%).

reactant | N-Carbobenzyloxy-L-aspartic anhydride | 1 mmol | C(=O)(OCC1=CC=CC=C1)N[C@H]1CC(=O)OC1=O | C12H11NO5
reactant | dodecylamine | 1.05 eq | C(CCCCCCCCCCC)N | C12H27N
reactant | triethylamine | 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-dodecyl-2-carbobenzyloxyamino-succinamic acid | yield 97% | C(CCCCCCCCCCC)NC(CC(C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C24H38N2O5
